* source MONOFASICO DUPLICADOR DE TENSION
D_D1         N00203 OUT Dbreak 
D_D2         0 N00203 Dbreak 
R_R1         0 OUT  100 TC=0,0 
C_C1         OUT N00258  1mf   
C_C2         N00258 0  1mf   
L_L1         N00194 N00203  1mh  
V_V1         N00194 N00258  AC 0
+SIN 0 311.13 50 0 0 0
