* source MEDIA ONDA CARGA INDUCTIVA
V_V1         N00142 GND DC 0Vdc AC 311vac 
D_D1         N00142 N00379 Dbreak 
L_L1         N00379 N00155  10mh  
R_R1         GND N00155  10  
