* source MONOFASICO DUPLICADOR DE TENSION
C_C1         N00207 N00258  1mf   
C_C2         N00258 0  1mf   
L_L1         N00194 N00203  1mh  
R_R1         0 N00207  1k  
V_V1         N00194 N00258 DC 0Vdc AC 1Vac 
D_D4         N00203 N00207 Dbreak 
D_D5         0 N00203 Dbreak 
