* source MONOFASICO EN PUENTE
L_L1         N00235 N00242  1mh  
R_R1         N00242 N00318  10  
R_R2         0 1  100  
C_C1         1 0  1uf   
D_D1         N00318 1 Dbreak 
D_D2         N00280 1 Dbreak 
D_D3         0 N00318 Dbreak 
D_D4         0 N00280 Dbreak 
V_V1         N00235 N00280  AC 0
+SIN 0 311.13 50 0 0 0
